Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Cough, fatigue
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ F with history of RA and ILD, on daily 
leflunomide/tofacitinib/prednisone 5mg, admitted with fatigue 
and cough. Patient has had fatigue, night sweats, non-productive 
cough, shortness of breath with activity, and fevers up to 100.9 
at home, for 1 week. She was seen by ___ NP at her 
PCP's office on ___, where CXR was negative for pneumonia, and 
she was diagnosed with acute bronchitis and recommended 
conservative management with rest, fluids, NSAIDs, cough 
suppressants at home. However, given persistent symptoms, she 
presented to her PCP ___ ___, where she was noted to be satting 
93% on RA, and she was directed to come to the ___ ED.

In the ED, initial vitals were 98.3 83 107/69 16 97% RA. Labs 
were notable for WBC 10.1 (84% PMNs), lactate 0.9, negative U/A. 
CXR showed chronic findings of known interstitial lung disease 
with superimposed consolidation in the left lower lobe, 
suggestive of pneumonia. The patient received 1g CTX, 500 mg 
azithromycin and 1L NS.  

Of note, the patient has had pneumonia once before, in ___. 
Bibasilar consolidations were noted CXR, and patient was treated 
outpatient with 5 days of levofloxacin.

Recent travel only to ___, no recent hospitalizations. 
Patient works as a ___ in ___.

 
Past Medical History:
 RHEUMATOID ARTHRITIS  
 INTERSTITIAL LUNG DISEASE  
 MITRAL VALVE PROLAPSE  
 HYPOTHYROIDISM  
 BENIGN POSITIONAL VERTIGO  
 DEPRESSION  
 DIZZINESS  
 SEASONAL ALLERGIES  
 SPASM, LARYNGEAL  
 OSTEOPENIA  
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
 Vitals: T 103, HR 101, BP 112/62, RR 20, SaO2 95% RA  
 GENERAL: Thin Caucasian woman, coughing profusely, not in 
respiratory distress.  
 HEENT: Normocephalic, atraumatic. PERRLA, EOMI. MMM. OP clear.  

 Neck: Supple, no JVD.  
 CARDIAC: RRR, normal S1, S2, no m/r/g.  
 LUNGS: Crackles/rhonchi at bilateral bases and midway up left 
lung fields.  
 ABDOMEN: Thin, NABS. Soft, NT, ND.  
 EXTREMITIES: 2+ peripheral pulses, on edema.  
 SKIN: No rashes/lesions, ecchymoses. 

DISCHARGE PHYSICAL EXAM
=======================
Vitals:  98.6  ___  93-106/57-64  ___  95-100% on RA
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear; tympanic 
membranes visualized with no effusions or erythema bilaterally
Neck: supple  
Lungs: improved inspiratory wheezes L>R, crackles in bases 
bilaterally
CV: regular rate and rhythm, normal S1 + S2, no murmurs
Abdomen: soft, non-tender, non-distended, bowel sounds present  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, nodularity with mild 
tenderness at PIP and DIP joints
Neuro: CNs2-12 intact, motor function grossly normal  
 
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:30PM BLOOD WBC-10.1* RBC-3.54* Hgb-10.5* Hct-31.9* 
MCV-90 MCH-29.7 MCHC-32.9 RDW-13.9 RDWSD-46.0 Plt ___
___ 07:30PM BLOOD Neuts-84* Bands-1 Lymphs-9* Monos-6 Eos-0 
Baso-0 ___ Myelos-0 AbsNeut-8.59* AbsLymp-0.91* 
AbsMono-0.61 AbsEos-0.00* AbsBaso-0.00*
___ 07:30PM BLOOD Glucose-125* UreaN-14 Creat-0.7 Na-136 
K-3.7 Cl-97 HCO3-26 AnGap-17
___ 07:30PM BLOOD Calcium-8.7 Phos-3.1 Mg-2.1
___ 07:32PM BLOOD Lactate-0.9

___ 10:45PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:45PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-150 Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 10:45PM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 10:45PM URINE Mucous-OCC

MICROBIOLOGY
============
___ Urine culture
___ Blood culture
___ Blood culture

IMAGING/STUDIES
================
CXR ___
IMPRESSION:  
  
Chronic findings of known interstitial lung disease with 
superimposed 
consolidation in the left lower lobe, suggestive of pneumonia. 

DISCHARGE LABS
=============
___ 07:18AM BLOOD WBC-6.0 RBC-2.99* Hgb-8.6* Hct-27.6* 
MCV-92 MCH-28.8 MCHC-31.2* RDW-14.0 RDWSD-47.5* Plt ___
___ 07:18AM BLOOD Glucose-88 UreaN-6 Creat-0.5 Na-140 K-3.9 
Cl-103 HCO3-27 AnGap-14
___ 07:18AM BLOOD Calcium-8.4 Phos-2.6* Mg-2.___RIEF SUMMARY
==============
___ yo F with history of rheumatoid arthritis and interstitial 
lunc disease, on daily leflunomide/tofacitinib/prednisone 5mg, 
admitted with fatigue, fever, and cough ___ left lower lobe 
pneumonia.

ACTIVE
=======
# Community-acquired pneumonia: Patient presented with 1 week of 
fatigue, night sweats, non-productive cough, shortness of breath 
with activity, and fevers. CXR showed LLL consolidation 
consistent with lobar pneumonia. Her outpatient pulmonologist 
Dr. ___ agreed with providing standard coverage for CAP 
given no recent hospitalizations. Blood cultures and urine 
cultures were pending at discharge. She was was given 
ceftriaxone 1g IV daily and azithromycin daily (500mg, then 
250mg) for 2 days and transitioned to cefpodoxime 200mg BID and 
azithromycin 250mg daily to complete a 5-day course of 
antibiotics. Her fever was managed with Tylenol and cough 
managed with codeine-guaifenesin and albuterol nebulizer.

CHRONIC ISSUES
==============
# Rheumatoid Arthritis: Patient continued on home prednisone 5mg 
daily, vitamin D 1000U daily, PRN naproxen. Leflunomide and 
tofacitinib were held for ___ as they are not on formulary at 
our institution; the patient was instructed to resume as usual 
on ___. 

# ILD: Patient continued on home omeprazole 20mg daily.

# Depression: Patient continued on home citalopram alternating 
20mg QD/10mg QD.

# Seasonal Allergies: Patient continued on home fluticasone 
nasal spray.

# Hypothyroidism: Patient continued on home levothyroxine 100mcg 
daily.

TRANSITIONAL ISSUES
====================
# Pneumonia: Transitioned to 3 additional days of cefpodoxime 
200mg BID and 2 additional days of azithromycin 250mg daily for 
total 5-day course of antibiotics (last day of both medications 
___. Sputum, urine and blood cultures are pending; team to 
follow up on results and contact patient if need to change 
antibiotics.
# Patient had worsening anemia from Hgb 10.5 to 8.6 on 
discharge. No evidence of bleeding. Likely ___ acute illness. 
Please recheck at follow-up appointment to ensure resolution.

# CONTACT: ___ (husband, HCP) ___ 
# CODE: Full (confirmed) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO EVERY OTHER DAY 
2. Citalopram 10 mg PO EVERY OTHER DAY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. leflunomide 10 mg oral DAILY 
5. Levothyroxine Sodium 100 mcg PO DAILY 
6. Naproxen 500 mg PO BID:PRN pain 
7. Omeprazole 20 mg PO DAILY 
8. PredniSONE 5 mg PO DAILY 
9. tofacitinib 5 mg oral BID 
10. Vitamin D 1000 UNIT PO DAILY 
11. Calcium Carbonate ___ mg PO DAILY 
12. Promethazine VC-Codeine (promethazine-phenyleph-codeine) 
___ mg/5 mL oral Q6H:PRN cough 

 
Discharge Medications:
1. Citalopram 20 mg PO EVERY OTHER DAY 
2. Citalopram 10 mg PO EVERY OTHER DAY 
3. Fluticasone Propionate NASAL 1 SPRY NU BID 
4. Levothyroxine Sodium 100 mcg PO DAILY 
5. Naproxen 500 mg PO BID:PRN pain 
6. Omeprazole 20 mg PO DAILY 
7. PredniSONE 5 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 
9. Calcium Carbonate ___ mg PO DAILY 
10. leflunomide 10 mg oral DAILY 
11. tofacitinib 5 mg oral BID 
12. Azithromycin 250 mg PO Q24H Duration: 2 Doses 
last day ___ 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0
13. Cefpodoxime Proxetil 200 mg PO Q12H Duration: 3 Days 
last dose ___ 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp #*5 
Tablet Refills:*0
14. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
RX *codeine-guaifenesin 100 mg-10 mg/5 mL ___ ml by mouth every 
6 hours Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
# Pneumonia

SECONDARY DIAGNOSES
=================
# Rheumatoid Arthritis
# Interstitial Lung Disease
# Depression
# Hypothyroidism
# Seasonal allergies

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your hospitalization 
at ___. You were admitted to the hospital for fever, cough, 
and fatigue in the setting of pneumonia, an infection of the 
lung. You were given antibiotics, cough medication, and 
anti-fever medication. Your symptoms improved over the course of 
your hospitalization. You will continue to take two antibiotics 
at home: 3 more days of cefpodoxime starting tonight ___ (200mg 
twice a day), with the last day to be ___, and 2 more days of 
azithromycin starting tomorrow ___ morning (250mg once a day), 
with the last day to be ___. Your sputum, urine and blood 
cultures remain pending, and our team will call you if you need 
to be on a different antibiotic.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___